US05563147
6-Methyl indole-3-carboxaldehyde
Phosphorus oxychoride (3.2 ml, 34.3 mmol) was added dropwise to dimethyl formamide (26 ml) over ten minutes at ~5° C. To this solution was added a dimethyl formamide (32 ml) solution of 6-methylindole (3.307 g, 25.2 mmol) over 10 minutes. The mixture was slowly warmed to ambient temperature, then heated to 50° C. for four hours. The mixture was cooled to ambient temperature, then poured onto ice (500 g). The aqueous solution was left to stand for 16 hours. Sodium hydroxide (6.0 g) was dissolved in water (22 ml) and added dropwise to the brown solution. The resultant yellow precipitate was boiled and filtered hot. It was left to cool to room temperature, then to 5° C. The precipitate was filtered off and washed with water (800 ml), dried at the pump, then further dried in vacuo at 50° C. for 16 hours to yield a yellow solid.

reactant | Phosphorus oxychoride | 34.3 mmol, 3.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethyl formamide | 26 ml | CN(C=O)C | C3H7NO
reactant | dimethyl formamide | 32 ml | CN(C=O)C | C3H7NO
reactant | 6-methylindole | 25.2 mmol, 3.307 g | CC1=CC=C2C=CNC2=C1 | C9H9N
reactant | Sodium hydroxide | 6.0 g | [OH-].[Na+]
solvent | water | 22 ml | O | H2O
product | 6-Methyl indole-3-carboxaldehyde | CC1=CC=C2C(=CNC2=C1)C=O | C10H9NO
